US05719141
2.0 g of 3-aminoquinoline are added in portions to a solution of 1.65 ml of N,N-dimethylcarbamoyl chloride in 3.9 ml of pyridine and the reaction mixture is stirred at room temperature for 24 h. The reaction mixture is then poured onto 50 ml of ice-water. Customary working up and purification of the crude product by chromatography over 100 g of silica gel (mobile phase L) gives 3-(N,N-dimethylaminocarbonylamino)quinoline: Rf (L)=0.23; MS:M+=215.

reactant | 3-aminoquinoline | 2.0 g | NC=1C=NC2=CC=CC=C2C1 | C9H8N2
reactant | N,N-dimethylcarbamoyl chloride | 1.65 ml | CN(C(=O)Cl)C | C3H6ClNO
solvent | pyridine | 3.9 ml | N1=CC=CC=C1 | C5H5N
product | 3-(N,N-dimethylaminocarbonylamino)quinoline | CNC(=O)N(C(=O)NC)C=1C=NC2=CC=CC=C2C1 | C13H14N4O2
